US07259177B2
Analogously to the building block synthesis of 4-iodomethyl-5-phenyl-2-p-tolyloxazole, diacetylmonoxime and 4-fluorobenzaldehyde gave 2-(4-fluorophenyl)-4-iodomethyl-5-methyloxazole.

reactant | 4-iodomethyl-5-phenyl-2-p-tolyloxazole | ICC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14INO
reactant | diacetylmonoxime | C/C(=N\O)/C(=O)C | C4H7NO2
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 2-(4-fluorophenyl)-4-iodomethyl-5-methyloxazole | FC1=CC=C(C=C1)C=1OC(=C(N1)CI)C | C11H9FINO
